US04311787
1-phenyl-3-carboxy-4-(p-hydroxybenzylidene)-2-pyrazolin-5-one
204 g (1 mole) of 1-phenyl-3-carboxy-2-pyrazolin-5-one and 122 g (1 mole) of p-hydroxybenzaldehyde were dissolved in 1000 ml of methanol. After a few minutes of refluxing the dye started crystallizing and after 1 h of boiling the reaction mixture was cooled to room temperature. The dye was filtered with suction and rinsed with methanol.

reactant | 1-phenyl-3-carboxy-2-pyrazolin-5-one | 1 mole, 204 g | C1(=CC=CC=C1)N1N=C(CC1=O)C(=O)O | C10H8N2O3
reactant | p-hydroxybenzaldehyde | 1 mole, 122 g | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | methanol | 1000 ml | CO | CH4O
product | 1-phenyl-3-carboxy-4-(p-hydroxybenzylidene)-2-pyrazolin-5-one | C1(=CC=CC=C1)N1N=C(C(C1=O)=CC1=CC=C(C=C1)O)C(=O)O | C17H12N2O4
